US04277621
The procedure described in Example (1a) is repeated, except that 273 g (2.02 mols) of N-2-furylidenepropenylamine [prepared by reaction of 2-furylaldehyde with allylamine and subsequent isomerisation in the presence of potassium tert.-butylate; boiling point 60°-62° C./67 Pa; nD20 =1.6004] are used. Distillation yields 210 g (0.865 mol) of 3-methyl-12-(2-furyl)-1-aza-1,5,9-cyclododecatriene; boiling point 106°-108° C./4 Pa; nD20 =1.5260.

reactant | N-2-furylidenepropenylamine | 2.02 mols, 273 g | O1C(CC=C1)=CC=CN | C7H9NO
reactant | allylamine | C(C=C)N | C3H7N
product | 3-methyl-12-(2-furyl)-1-aza-1,5,9-cyclododecatriene | 0.865 mol, 210 g | CC1C=NC(CC=CCCC=CC1)C=1OC=CC1 | C16H21NO
